US04675332
A mixture of 4.6 g (0.096 mole) of 50% sodium hydride/mineral oil in 100 ml of N,N-dimethylformamide under a nitrogen atmosphere was cooled in an ice bath. To the stirred mixture was added over 45 minutes, a solution of 19.5 g (0.089 mole) of 3-methoxy-1H-indole-2-carboxylic acid ethyl ester [A. Galun, A. Markus, and A. Kampf, J. Heterocyclic Chem., 16, 221 (1979)] in 50 ml of N,N-dimethylformamide. The mixture was stirred for an additional 30 minutes, and a solution of 11.6 ml (16.7 g; 0.098 mole) of benzyl bromide in 10 ml of N,N-dimethylformamide was added over 15 minutes. The ice bath was removed, the mixture was stirred for an additional 16 hours, and then added to 800 g of ice water. The crude ester intermediate was removed by extracting with dichloromethane (4×250 ml). The combined organic layers were back-washed with brine (3×500 ml), dried (anhydrous sodium sulfate), and evaporated to yield a crude residue of 3-methoxy-1(phenylmethyl)-1H-indole-2-carboxylic acid ethyl ester, plus a small amount of N,N-dimethylformamide.

reactant | sodium hydride | 0.096 mole, 4.6 g | [H-].[Na+]
reactant | 3-methoxy-1H-indole-2-carboxylic acid ethyl ester | 0.089 mole, 19.5 g | C(C)OC(=O)C=1NC2=CC=CC=C2C1OC | C12H13NO3
reactant | benzyl bromide | 0.098 mole, 11.6 ml, 16.7 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-methoxy-1(phenylmethyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1OC)CC1=CC=CC=C1 | C19H19NO3
